US08629157B2
Step 1: Synthesis of (S)-5-oxo-pyrrolidine-2-carboxylic acid (3-tert-butyl-isoxazol-5-yl)-amide
To solution of the (S)-5-oxo-pyrrolidine-2-carboxylic acid (6 g, 46.47 mmol) in tetrahydrofuran (50 mL) is added thionyl chloride (6.75 ml, 92.94 mmol) and stirred at room temperature for 2-3 hours. The solvent is removed under reduced pressure and the residue is dissolved in tetrahydrofuran (20 mL) and added dropwise to a solution of 3-tert-butyl-isoxazol-5-ylamine (6.514 g, 46.47 mmol) and diisopropylamine (24.28 ml, 139.41 mmol) in tetrahydrofuran (50 mL) at room temperature. The reaction is stirred overnight at room temperature then diluted with dichloromethane and washed sequentially with water and saturated brine solution. The organics are dried over sodium sulfate, filtered and solvents removed under vacuum. The crude residue is purified by flash column chromatography eluting with 5-10% methanol/dichloromethane. The product rich fractions are pooled and evaporated to afford 3.02 g title compound, 32.7% yield. ESI m/z 252=MH+.

reactant | (S)-5-oxo-pyrrolidine-2-carboxylic acid | 46.47 mmol, 6 g | O=C1CC[C@H](N1)C(=O)O | C5H7NO3
reactant | thionyl chloride | 92.94 mmol, 6.75 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3-tert-butyl-isoxazol-5-ylamine | 46.47 mmol, 6.514 g | C(C)(C)(C)C1=NOC(=C1)N | C7H12N2O
reactant | diisopropylamine | 139.41 mmol, 24.28 ml | C(C)(C)NC(C)C | C6H15N
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | (S)-5-oxo-pyrrolidine-2-carboxylic acid (3-tert-butyl-isoxazol-5-yl)-amide | 3.02 g, 32.7% yield | C(C)(C)(C)C1=NOC(=C1)NC(=O)[C@H]1NC(CC1)=O | C12H17N3O3
